US08309734B2
(6-Methyl-3,4-dihydro-2H-quinolin-1-yl)-[2-(3-trifluoromethyl-phenoxy)-pyridin-3-yl]-methanone
The title compound was prepared from 2-(3-trifluoromethyl-phenoxy)-nicotinic acid in analogy to Example 1, Step 2, by replacing 1,2,3,4-tetrahydro-quinoline with 6-methyl-1,2,3,4-tetrahydro-quinoline ([CAS RN 91-61-2]). MS (ISP): 413.2 [M+H]+.

reactant | 2-(3-trifluoromethyl-phenoxy)-nicotinic acid | FC(C=1C=C(OC2=C(C(=O)O)C=CC=N2)C=CC1)(F)F | C13H8F3NO3
reactant | 6-methyl-1,2,3,4-tetrahydro-quinoline | CC=1C=C2CCCNC2=CC1 | C10H13N
product | (6-Methyl-3,4-dihydro-2H-quinolin-1-yl)-[2-(3-trifluoromethyl-phenoxy)-pyridin-3-yl]-methanone | CC=1C=C2CCCN(C2=CC1)C(=O)C=1C(=NC=CC1)OC1=CC(=CC=C1)C(F)(F)F | C23H19F3N2O2
